US07846960B2
2-Fluoro-4-triisopropylsilanyloxy-phenylamine
A flask with a mixture of (3-fluoro-4-nitro-phenoxy)-triisopropyl-silane (6.74 g, 21.5 mmol) in ethyl acetate (200 mL) is evacuated and filled with nitrogen three times. Palladium 10% by weight on carbon (550 mg) is added. The flask is evacuated and filled with nitrogen three times and then it is evacuated and filled with hydrogen from a balloon. The mixture is stirred under hydrogen atmosphere (balloon) over night. The mixture is filtered over diatomaceoud earth and concentrated to provide the title compound (6.2 g, 100%) as an oil. LC-ES/MS m/e 284.2 (M+1).

reactant | (3-fluoro-4-nitro-phenoxy)-triisopropyl-silane | 21.5 mmol, 6.74 g | FC=1C=C(O[Si](C(C)C)(C(C)C)C(C)C)C=CC1[N+](=O)[O-] | C15H24FNO3Si
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-Fluoro-4-triisopropylsilanyloxy-phenylamine | 6.2 g, 100% | FC1=C(C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)N | C15H26FNOSi
